Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Odynophagia, Dehydration 
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with T3NxM0 squamous cell esophageal carcinoma on 
neoadjuvant
C1D18 carboplatin/paclitaxel and ___ radiation treatments
presenting for a one-day history of worsening odynophagia and
dehydration that he noted during his radiation treatment today. 

As a result of his esophageal cancer, he has been having
odynophagia for a few months that has limited his food to rice
stew and getting poor nutritional value. Pt states he is having
worsened pain on swallowing, epigastric discomfort, retching and
burping. He is experiencing weight loss of about 10 lbs over 2
months. He says the pain has been acutely worsening recently to
where drinking water is now painful, but denies having pain at
rest. He also states that he has been able to continue to take
his oral meds despite the pain. He denies nausea, vomiting,
regurgitation of food, hematemesis, blood in stool, diarrhea, 
and
dyspnea on exertion. 

He also denies feeling dizzy upon standing and has not had any
syncopal episodes. 

He was seen by outpatient oncology yesterday where he was
prescribed liquid oxy which is helping improve his pain. He came
for radiation today but he was found to be orthostatic in the
setting of not eating/drinking and having pain that is still
bothering him.  

Mr. ___ is being admitted to the ___ service from ___. 
When
he arrived, he was appearing well, mentating, and able to give a
full history. He states he was only having minimal pain but was
not in distress. 
 
Past Medical History:
Hypertension
Hyperlipidemia
Possible PUD 
 
Social History:
___
Family History:
Mother: lung or liver cancer
Father: HTN, DM, HLD
Sister: HTN
 
Physical ___:
ADMISSION EXAM
==============
VS:  T98.7 BP 103/56, HR 62, RR 18, 100% RA
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, dry mucous membranes; no visible
ulcers or erythema in the OP
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABD: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXT: wwp, no cyanosis, clubbing, or edema, 2+ radial pulses
bilaterally  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric    
ACCESS: PIV

DISCHARGE EXAM
===============
___ 0713 Temp: 98.0 PO BP: 121/75 HR: 60 RR: 18 O2 sat: 99%
O2 delivery: RA 
GENERAL: NAD, responding appropriately. Ambulating. 
HEENT: AT/NC, anicteric sclera, no visible ulcers or erythema in
the OP
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABD: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXT: wwp, no cyanosis, clubbing, or edema, 2+ radial pulses
bilaterally  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric    
ACCESS: PIV
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:30AM BLOOD WBC-5.8 RBC-4.62 Hgb-13.2* Hct-40.2 
MCV-87 MCH-28.6 MCHC-32.8 RDW-12.5 RDWSD-39.6 Plt ___
___ 10:30AM BLOOD Neuts-80.3* Lymphs-12.0* Monos-6.0 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-4.67 AbsLymp-0.70* 
AbsMono-0.35 AbsEos-0.05 AbsBaso-0.02
___ 10:30AM BLOOD UreaN-21* Creat-1.1 Na-141 K-4.5 Cl-101 
HCO3-28 AnGap-12
___ 10:30AM BLOOD ALT-18 AST-14 AlkPhos-70 TotBili-0.6
___ 10:30AM BLOOD TotProt-7.2 Albumin-4.5 Globuln-2.7 
Calcium-9.6 Phos-4.4 Mg-2.2

MICRO/OTHER PERTINENT LABS
=========================
___ 08:27AM BLOOD ___ PTT-28.1 ___
___ 08:27AM BLOOD VitB12-___
___ 08:27AM BLOOD TSH-0.95

IMAGING
========
none

DISCHARGE LABS
===============
___ 07:27AM BLOOD WBC-4.2 RBC-4.09* Hgb-11.9* Hct-35.5* 
MCV-87 MCH-29.1 MCHC-33.5 RDW-12.5 RDWSD-39.2 Plt ___
___ 07:27AM BLOOD Glucose-130* UreaN-13 Creat-1.1 Na-142 
K-4.3 Cl-103 HCO3-28 AnGap-11
___ 07:27AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.___ with T3NxM0 squamous cell esophageal carcinoma on 
neoadjuvant C1D18 carboplatin/paclitaxel and ___ radiation 
treatments presenting for a one-day history of worsening 
odynophagia and dehydration likely ___ malignancy and ongoing 
treatment. Stabilized with liquid diet and pain medications. 

# Odynophagia
# Esophageal SCC:
T3NxM0 squamous cell esophageal carcinoma on neoadjuvant 
chemoradiation (carboplatin/paclitaxel) with plan for 
esophagectomy. Patient was sent here for symptomatic management. 
Esophaghitis likely ___ his malignancy iso active treatment. 
Pain management has been liquid oxy before meals and viscous 
lidocaine. Also started higher dose of PPI and sucralfate for 
esophagitis. Patient told to maintain liquid diet with pureed 
food (wife said this is possible to do at home). Said he cannot 
handle the supplements but will drink milk and soup. Patient 
understands his diet restrictions and that if he cannot keep up 
with caloric intake he may need a feeding tube in the future. 
Patient should crush pills if unable to swallow whole. 

# Poor PO Intake
# Dehydration
# Weight loss:
Patient with unintentional weight loss of 10 lbs over 2 months 
in the setting of known esophageal cancer and odynophagia. Now 
with worsening, progressive odynophagia and intolerance to 
liquids. Orthostatics negative. Vit B12/TSH/Albumin WNL. 
Continued full liquids diet with nutrition shakes. Contineud 
MVI, folate, thiamine. 

CHRONIC ISSUES
==============
# Hypertension:
Held home amlodipine, restarted on discharge. 

# Hyperlipidemia:
Held home atorvastatin, restarted on discharge. 

# Tobacco Use Disorder:
0.5ppd smoker, says he stopped a few weeks ago but with 
intermittent relapse. Given nicotine patch. Needs continued 
encouragement for cessation. 

# Alcohol Use Disorder:
Reports that he used to drink 3oz brandy/week, stopped three 
weeks ago. Continued MVI liquid, folate, thiamine. 

TRANSITIONAL ISSUES
====================
DISCHARGE WT: 72.76 kg

New Medications: 
- Multivitamin 1 tab daily
- Sucralfate 1gm QID
- Thiamine 100mg (3 more days)

Changed Medications: 
- Omeprazole 40mg daily

[ ] continue to assess pain control with liquid oxycodone and 
viscous lidocaine on liquid/pureed diet
[ ] continue to assess need for nutritional support 
[ ] ensure patient taking tablets (crushed if needed)
[ ] oncology follow up for continued chemo/XRT
[ ] nicotine cessation

#HCP/CONTACT: ___ (Wife) ___- said he would like
to make her his HCP
#CODE STATUS: Full Code (Confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 30 mL PO TID constipation 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Simethicone 125 mg PO QID:PRN gas 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea 
5. Docusate Sodium 100 mg PO BID 
6. Senna 8.6 mg PO BID:PRN Constipation - First Line 
7. amLODIPine 10 mg PO DAILY 
8. Atorvastatin 20 mg PO QPM 
9. Lidocaine Viscous 2% 15 mL PO QID:PRN odynophagia 
10. OxycoDONE Liquid 5 mg PO Q4H:PRN Pain - Moderate 
11. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*120 Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0 
4.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
6.  amLODIPine 10 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  Docusate Sodium 100 mg PO BID  
9.  Lactulose 30 mL PO TID constipation  
10.  Lidocaine Viscous 2% 15 mL PO QID:PRN odynophagia 
RX *lidocaine HCl [Lidocaine Viscous] 2 % Please take 15ml by 
mouth every four hours Refills:*0 
11.  OxycoDONE Liquid 5 mg PO Q4H:PRN Pain - Moderate 
RX *oxycodone 5 mg/5 mL 5 mg by mouth every four hours 
Refills:*0 
12.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  Simethicone 125 mg PO QID:PRN gas  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Odynophagia
Esophageal squamous cell carcinoma
Malnutrition

SECONDARY DIAGNOSES
===================
Hypertension
Hyperlipidemia
Alcohol use disorder
Tobacco use disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

WHY YOU WERE HERE
- You were having pain with swallowing and unable to eat

WHAT WE DID FOR YOU
- You were given pain medications to help with swallowing
- You were given IV fluids
- You were given a liquid diet

WHAT YOU SHOULD DO WHEN YOU LEAVE
- You need to take the pain medications prescribed to help with 
the swallowing
- You need to only have liquids and pureed foods to prevent 
vomiting and pain
- You need to try to maintain your intake because if you're not 
having enough food through liquids/purees, you may need a 
feeding tube
- If tablets are difficult to take, you should be crushing them 
and taking with liquids
- You should follow up with your oncologist for continuing 
therapy

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___